US05646286
Methyl (3-benzyloxy-6-hydroxymethylpyridin-2-yl)propenoate
To a solution of 2-bromo-3-benzyloxy-6-hydroxymethylpyridine (2.94 g, 10 mmol) in DMF (19 ml) and water (1 ml) were added potassium acetate (2.45 g, 10.0 mmol), tetra-n-butylammonium iodide (3.69 g. 10.0 mmol), bis(triphenyl-phosphine)palladium dichloride (281 mg, 0.4 mmol) and methyl acrylate (2.70 ml. 2.58 g, 30 mmol). The mixture was placed under nitrogen and stirred and heated at 120° C. for 5 h. The mixture was cooled and added to water (180 ml). The product was extracted into ethyl acetate (3×30 ml). The combined extracts were washed with water (3×25 ml), dried and evaporated. The residue was purified by flash column chromatography eluting with dichloromethane, then 4:1 dichloromethane:ethyl acetate to give the product (2.516 g, 84%).

reactant | 2-bromo-3-benzyloxy-6-hydroxymethylpyridine | 10 mmol, 2.94 g | BrC1=NC(=CC=C1OCC1=CC=CC=C1)CO | C13H12BrNO2
reactant | potassium acetate | 10.0 mmol, 2.45 g | C(C)(=O)[O-].[K+]
reactant | methyl acrylate | 30 mmol, 2.70 ml, 2.58 g | C(C=C)(=O)OC | C4H6O2
solvent | DMF | 19 ml | CN(C)C=O | C3H7NO
solvent | water | 1 ml | O | H2O
catalyst | tetra-n-butylammonium iodide | 10.0 mmol, 3.69 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | bis(triphenyl-phosphine)palladium dichloride | 0.4 mmol, 281 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 180 ml | O | H2O
product | Methyl (3-benzyloxy-6-hydroxymethylpyridin-2-yl)propenoate | 2.516 g, 84% | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)CO)C(C(=O)OC)=C | C17H17NO4
